US08975254B2
d) (S)-3-acetyl-N-(1-(3-(3,4-dichlorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 3-acetyl-1H-pyrazole-5-carboxylic acid (71.9 mg, 0.466 mmol) and (S)-1-(3-(3,4-dichlorophenyl)-1H-pyrazol-1-yl)propan-2-amine (126 mg, 0.466 mmol). The product was purified by recrystallization from acetonitrile. Yield 12.61%. 1H-NMR (400 MHz; DMSO-d6): δ 1.05-1.25 (m, 3H), 4.18-4.53 (m, 3H), 6.79 (s, 1H), 7.31 (s, 1H), 7.57-7.85 (m, 3H), 7.89-7.98 (m, 1H), 8.39-8.54 (m, 1H), 14.05& 14.12 (2 broad s, 1H).

reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 0.466 mmol, 71.9 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | (S)-1-(3-(3,4-dichlorophenyl)-1H-pyrazol-1-yl)propan-2-amine | 0.466 mmol, 126 mg | ClC=1C=C(C=CC1Cl)C1=NN(C=C1)C[C@H](C)N | C12H13Cl2N3
product | (S)-3-acetyl-N-(1-(3-(3,4-dichlorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | Yield 12.61% | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C=C1)Cl)Cl)C | C18H17Cl2N5O2
